US06342765B1
A solution of HCO2NH4 (5.6 g, 88.5 mmol) in water (10 ml) was added dropwise to a suspension of compound 2-(morpholinomethyl)prop-2-yl (2S)-2-(benzyloxycarbonylamino)-4-methylsulfanylbutyrate (7.5 g, 17.7 mmol) and 10% palladium on carbon (7.5g) in DMP (80 ml). The mixture was stirred at ambient temperature for 18 h. After filtration through Celite, the titrate was evaporated to dryness, neutralised with ammonia in diethyl ether to pH 9 and extracted with more ether. After evaporation the compound was purified by flash column chromatography eluting with a gradient of 1-5% ethanol/dichloromethane to give 2-(morpholinomethyl)prop-2-yl (2S)-2-amino-4-methylsulfanylbutyrate (50%).

reactant | 2-(morpholinomethyl)prop-2-yl (2S)-2-(benzyloxycarbonylamino)-4-methylsulfanylbutyrate | 17.7 mmol, 7.5 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)CN1CCOCC1)CCSC | C21H32N2O5S
solvent | water | 10 ml | O | H2O
catalyst | palladium on carbon | 7.5g | [Pd] | Pd
product | 2-(morpholinomethyl)prop-2-yl (2S)-2-amino-4-methylsulfanylbutyrate | 50% | N[C@H](C(=O)OC(C)(C)CN1CCOCC1)CCSC | C13H26N2O3S
